US07618975B2
(4-Ethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine
The title compound was prepared from 4-chloro-2-methylquinazoline and 4-ethoxyaniline by a procedure similar to example 28 (93%). 1H NMR (CDCl3): 7.83 (m, 1H), 7.81 (m, 1H), 7.42 (m, 1H), 7.65-7.71 (m, 2H), 7.46 (ddd, J=8.4, 6.9, 1.5, 1H), 7.37 (s, broad, 1H), 6.92-6.97 (m, 2H), 4.06 (q, J=6.9, 2H), 2.68 (s, 3H), 1.43 (t, J=6.9, 3H).

reactant | 4-chloro-2-methylquinazoline | ClC1=NC(=NC2=CC=CC=C12)C | C9H7ClN2
reactant | 4-ethoxyaniline | C(C)OC1=CC=C(N)C=C1 | C8H11NO
product | (4-Ethoxy-phenyl)-(2-methyl-quinazolin-4-yl)-amine | C(C)OC1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C | C17H17N3O
